US05760054
A mixture of 1 g of 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 25 mL of tetrahydrofuran, 10 mL of saturated Na2CO3, 20 mL of water and 1.05 g of di-tert-butyl-dicarbonate was stirred for 6 h. The mixture was extracted with 100 mL of chloroform and the organic extracts concentrated to dryness under reduced pressure. Drying under vacuum gave 1.6 g of 1,3-dihydro-1-(1-tert-butyloxycarbonylpiperidin-4-yl)-2H-benzimidazol-2-one as a white crystalline solid.

reactant | 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | 1 g | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
reactant | Na2CO3 | 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | di-tert-butyl-dicarbonate | 1.05 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 20 mL | O | H2O
product | 1,3-dihydro-1-(1-tert-butyloxycarbonylpiperidin-4-yl)-2H-benzimidazol-2-one | 1.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C17H23N3O3
